US07238813B2
N-methyl-5-chloro-2-nitroaniline
To a solution of 5-chloro-2-nitroaniline (1.73 g, 10.0 mmol) in DMF (40 mL) was added NaH (60% oily, 880 mg, 22.0 mmol) at 0° C. followed by excess amount of Mel (3.0 mL). The mixture was stirred at 0° C. for 1 hr then at room temperature overnight. The mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4 then evaporated. Sequence purification on SiO2 column chromatography gave the title compound (1.86 g, quant): 1H NMR (DMSO-d6) δ 2.95 (d, 3H), 6.69 (dd, 1H), 7.03 (d, 1H), 8.08 (d, 1H), 8.28 (br, 1H).

reactant | 5-chloro-2-nitroaniline | 10.0 mmol, 1.73 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | NaH | 22.0 mmol, 880 mg | [H-].[Na+]
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N-methyl-5-chloro-2-nitroaniline | 1.86 g | CNC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C7H7ClN2O2
